### PR TITLE
[Merged by Bors] - chore(Algebra/BigOperators/Finsupp): sums of `Finsupp.single`

### PR DESCRIPTION
**Pull request by eric-wieser**
This adds a new lemma to match the existing `Pi` lemma, and renames the existing lemmas to avoid inconsistent naming.

The `equivFunOnFinite` lemma is motivated by #6657.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 1]
```diff
@@ -474,22 +474,37 @@ theorem sum_single [AddCommMonoid M] (f : α →₀ M) : f.sum single = f :=
...
--- Porting note: rewrite due to leaky classical in lean3
+theorem univ_sum_single [Fintype α] [AddCommMonoid M] (f : α →₀ M) :
+    ∑ a : α, single a (f a) = f := by
+  classical
+  refine FunLike.coe_injective ?_
+  simp_rw [coe_finset_sum, single_eq_pi_single, Finset.univ_sum_single]
+
+@[simp]
+theorem univ_sum_single_apply [AddCommMonoid M] [Fintype α] (i : α) (m : M) :
+    (∑ j : α, single i m j) = m := by
```
Comment (fpvandoorn) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:487]: could you remove the parentheses here and below?

**Review by fpvandoorn — COMMENTED** [review]
Thanks!

bors d+

**Comment by eric-wieser** [comment]
bors merge
